US06528543B1
A mixture of 3-cyclopentyl-2-(3,4-difluoro-phenyl)-propionic acid methyl ester (1.65 g, 6.14 mmol) and methyl urea (683 mg, 9.22 mmol) in a solution of magnesium methoxide in methanol (7.4 wt %, 16.6 mL, 12.3 mmol) was refluxed at 100° C. for 8 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 75/25 hexanes/ethyl acetate) afforded 1-[3-cyclopentyl-2-(3,4-difluoro-phenyl)-propionyl]-3-methyl-urea (180 mg, 9.4%) as a white solid: mp 111-113° C.; EI-HRMS m/e calcd for C16H20F2N2O2 (M+) 310.1493, found 310.1499.

reactant | 3-cyclopentyl-2-(3,4-difluoro-phenyl)-propionic acid methyl ester | 6.14 mmol, 1.65 g | COC(C(CC1CCCC1)C1=CC(=C(C=C1)F)F)=O | C15H18F2O2
reactant | methyl urea | 9.22 mmol, 683 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 12.3 mmol, 16.6 mL | CO | CH4O
product | 1-[3-cyclopentyl-2-(3,4-difluoro-phenyl)-propionyl]-3-methyl-urea | 180 mg, 9.4% | C1(CCCC1)CC(C(=O)NC(=O)NC)C1=CC(=C(C=C1)F)F | C16H20F2N2O2
